US07339059B2
4.1 (trans)-1-(5-Chloro-benzofuran-2-yl-carbonyl)-4-(4-fluorobenzyl)-2,5-dimethylpiperazine
To an ice cold solution of (trans)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine (712 mg, 3.2 mmol) and triethylamine (506 mg, 5 mmol) in CH2Cl2 (5 mL) a solution of the 5-chloro-1-benzofuran-2-carbonyl chloride (4.2 mmol) in CH2Cl2 (2 mL) was dropwise added. The reaction mixture was stirred at room temperature over night and washed with 0.5 M aqueous NaOH. The organic layer was dried, concentrated and submitted to flash column chromatography (CHCl3/MeOH; 1:0→10:1) to yield 1.05 g (82%) of the title compound.

reactant | (trans)-1-(4-fluorobenzyl)-2,5-dimethylpiperazine | 3.2 mmol, 712 mg | FC1=CC=C(CN2[C@H](CN[C@@H](C2)C)C)C=C1 | C13H19FN2
reactant | triethylamine | 5 mmol, 506 mg | C(C)N(CC)CC | C6H15N
reactant | 5-chloro-1-benzofuran-2-carbonyl chloride | 4.2 mmol | ClC=1C=CC2=C(C=C(O2)C(=O)Cl)C1 | C9H4Cl2O2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (trans)-1-(5-Chloro-benzofuran-2-yl-carbonyl)-4-(4-fluorobenzyl)-2,5-dimethylpiperazine | 1.05 g, 82% | ClC=1C=CC2=C(C=C(O2)C(=O)N2[C@H](CN([C@@H](C2)C)CC2=CC=C(C=C2)F)C)C1 | C22H22ClFN2O2
